US07858640B2
2-(4-fluorobenzyl)-3-oxobutyric Acid Ethyl Ester
A suspension of potassium tert-butoxide (11.2 g) in anhydrous tetrahydrofuran (200 mL) at 0° C. was treated with a mixture of tert-butanol (0.2 mL) and 3-oxobutyric acid ethyl ester (12.7 mL). The mixture was warmed to 15° C. over a period of 40 minutes and a solution of 1-chloromethyl-4-fluorobenzene (11.9 mL) in tetrahydrofuran (40 mL) was added and the resulting mixture heated at 70° C. for 20 hours. The mixture was cooled to room temperature, diluted with water and the tetrahydrofuran removed under reduced pressure. The residue was extracted with ethyl acetate and the combined extracts washed with water and saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by distillation under reduced pressure (boiling point, 102-104° C. at 0.42 mbar) to afford title compound as a colourless oil, 12.4 g.

reactant | potassium tert-butoxide | 11.2 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 0.2 mL | C(C)(C)(C)O | C4H10O
reactant | 3-oxobutyric acid ethyl ester | 12.7 mL | C(C)OC(CC(C)=O)=O | C6H10O3
reactant | 1-chloromethyl-4-fluorobenzene | 11.9 mL | ClCC1=CC=C(C=C1)F | C7H6ClF
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-fluorobenzyl)-3-oxobutyric Acid Ethyl Ester | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)F)=O | C13H15FO3
